US06809199B2
A solution of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one (32 mg, 0.56 mmol) in 1 mL trifluoroacetic acid was stirred at 95° C. for 1.25 h. The solvent was removed under reduced pressure and the product was purified by preparative thin-layer chromatography, eluting with 93:7 CH2Cl2-methanol to yield 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 448 (M+1). 1H NMR (500 MHz, CDCl3): δ 3.35 (½ ABq, J=15.5 Hz, 1H); 3.52 (½ ABq, J=15.5 Hz. 1H); 7.00 (s, 1H); 7.32 (d, J=2.1 Hz, 1H); 7.46 (m, 3H); 7.58 (m, 3H); 7.81 (s, 1H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | 0.56 mmol, 32 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl3N3O4
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O | C20H12Cl3N3O3
